US09216972B2
To a mixture of 5-bromo-2,3-dihydro-1H-inden-1-one (2 g, 9.48 mmol), tributyl(vinyl)stannane (3.32 mL, 11.37 mmol) and toluene (30 mL) in a sealed tube was added Pd(Ph3P)4 (0.548 g, 0.474 mmol). Nitrogen was bubbled through the reaction for 5 min., the vessel was sealed and heated at 100° C. for 20 hr. After cooling the reaction mixture to room temperature, ethyl acetate (20 mL), water (30 mL) and celite were added. The mixture was stirred at room temperature for 30 min. and filtered. The EtOAc layer was separated and the aqueous layer was re-extracted with ethyl acetate (3×10 mL). The combined organic extracts were dried (sodium sulfate) and concentrated under reduced pressure. Flash chromatography purification (40 g silica gel column, 5→50% ethyl acetate in hexanes) afforded 5-vinyl-2,3-dihydro-1H-inden-1-one (1.2 g, 7.59 mmol, 80% yield) as a yellow solid. The product had an HPLC ret. time=2.50 min. (condition C); LC/MS M+1=159.2.

reactant | 5-bromo-2,3-dihydro-1H-inden-1-one | 9.48 mmol, 2 g | BrC=1C=C2CCC(C2=CC1)=O | C9H7BrO
reactant | tributyl(vinyl)stannane | 11.37 mmol, 3.32 mL | C(CCC)[Sn](C=C)(CCCC)CCCC
catalyst | Pd(Ph3P)4 | 0.474 mmol, 0.548 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 5-vinyl-2,3-dihydro-1H-inden-1-one | 7.59 mmol, 1.2 g, 80% yield | C(=C)C=1C=C2CCC(C2=CC1)=O | C11H10O
